US07407961B2
3-Amino-6-(1-isopropyl-6-oxo-1,6-dihydro-3-pyridyl)-2-pyrazinecarboxamide 4-oxide (8 g) was dissolved in DMF (80 ml). The solution was cooled to −30° C. To the cooled solution was added phosphoryl chloride (12.7 g) dropwise at −30˜−40° C. After addition of phosphoryl chloride, the temperature of the reaction mixture was raised to −10˜−5° C. The mixture was stirred at −10˜−5° C. for 1 hour. To the reaction mixture was added water (400 ml). The suspension was stirred at 30-35° C. for 15 hours. The pH of the suspension was adjusted to 4.5. The suspension was cooled to 0-5° C. and stirred at the same temperature for 2 hours. The precipitate was collected by filtration and washed with water, and dried in vacuo at 40-50° C., to give 3-amino-5-chloro-6-(1-isopropyl-6-oxo-1,6-dihydro-3-pyridyl)-2-pyrazinecarboxamide (7.1 g).

reactant | 3-Amino-6-(1-isopropyl-6-oxo-1,6-dihydro-3-pyridyl)-2-pyrazinecarboxamide 4-oxide | 8 g | NC=1C(=NC(=C[N+]1[O-])C1=CN(C(C=C1)=O)C(C)C)C(=O)N | C13H15N5O3
reactant | phosphoryl chloride | 12.7 g | P(=O)(Cl)(Cl)Cl | Cl3OP
reactant | water | 400 ml | O | H2O
solvent | DMF | 80 ml | CN(C)C=O | C3H7NO
product | 3-amino-5-chloro-6-(1-isopropyl-6-oxo-1,6-dihydro-3-pyridyl)-2-pyrazinecarboxamide | 7.1 g | NC=1C(=NC(=C(N1)Cl)C1=CN(C(C=C1)=O)C(C)C)C(=O)N | C13H14ClN5O2
